US04438113
A mixture of 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-allyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.5 g) in methanol (15 ml), and conc. hydrochloric acid (0.52 g) and tetrahydrofuran (3.0 ml) was stirred for 3.0 hours at ambient temperature. The reaction mixture was added to water and ethyl acetate, and adjusted to pH 7.5 with a saturated aqueous solution of sodium bicarbonate. The aqueous layer was separated and adjusted to pH 3.0 with 10% hydrochloric acid, and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and evaporated under reduced pressure to give 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-allyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.02 g).

reactant | 7-[2-(2-formamido-5-chlorothiazol-4-yl)-2-allyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.5 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC=C)Cl | C19H18ClN9O6S3
reactant | hydrochloric acid | 0.52 g | Cl | ClH
reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-[2-(2-amino-5-chlorothiazol-4-yl)-2-allyloxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.02 g | NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC=C)Cl | C18H18ClN9O5S3
